US07098231B2
Methyl 4-amino-3-iodobenzoate
Methyl 4-aminobenzoate (30.23 g, 200 mmol) was added to a mixture of iodine (60.91 g, 240 mmol) and silver sulfate (81.07 g, 260 mmol) in 1 L of ethanol at room temperature. The mixture was stirred at room temperature for 18 hours, filtered over Celite and the filtrate was evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel (230–400 mesh) and eluted with 1% ethyl acetate in hexane to give 35 g (63%).

reactant | Methyl 4-aminobenzoate | 200 mmol, 30.23 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | iodine | 240 mmol, 60.91 g | II | I2
solvent | ethanol | 1 L | C(C)O | C2H6O
catalyst | silver sulfate | 260 mmol, 81.07 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | Methyl 4-amino-3-iodobenzoate | NC1=C(C=C(C(=O)OC)C=C1)I | C8H8INO2
